### ISSUE TITLE
Meta.isDefEq failure

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/lean4#2461]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

`Meta.isDefEq` fails to deduce that two defeq terms are defeq, causing `simp` to fail.

### Steps to Reproduce

No doubt this can be minimised more, but 

```lean
section algebra_hierarchy_classes_to_comm_ring

class Zero (α : Type) where
  zero : α

class One (α : Type) where
  one : α

class Semiring (α : Type) extends Add α, Mul α, Zero α, One α

class CommSemiring (R : Type) extends Semiring R

class Ring (R : Type) extends Semiring R

class CommRing (R : Type) extends Ring R

end algebra_hierarchy_classes_to_comm_ring

section algebra_hierarchy_morphisms

class FunLike (F : Type) (α : outParam Type) (β : outParam <| α → Type) where
  coe : F → ∀ a : α, β a

instance (priority := 100) FunLike.insthasCoeToFun {F α : Type} {β : α → Type} [FunLike F α β] : CoeFun F fun _ ↦ ∀ a : α, β a where coe := FunLike.coe

structure ZeroHom (M N : Type) [Zero M] [Zero N] where
  toFun : M → N

class ZeroHomClass (F : Type) (M N : outParam Type) [Zero M] [Zero N]
  extends FunLike F M fun _ => N where

structure OneHom (M : Type) (N : Type) [One M] [One N] where
  toFun : M → N

class OneHomClass (F : Type) (M N : outParam Type) [One M] [One N]
  extends FunLike F M fun _ => N where

structure AddHom (M : Type) (N : Type) [Add M] [Add N] where
  toFun : M → N

class AddHomClass (F : Type) (M N : outParam Type) [Add M] [Add N]
  extends FunLike F M fun _ => N where

structure MulHom (M : Type) (N : Type) [Mul M] [Mul N] where
  toFun : M → N

infixr:25 " →ₙ* " => MulHom

class MulHomClass (F : Type) (M N : outParam Type) [Mul M] [Mul N]
  extends FunLike F M fun _ => N where

structure AddMonoidHom (M : Type) (N : Type) [Add M] [Zero M] [Add N] [Zero N] extends
  ZeroHom M N, AddHom M N

infixr:25 " →+ " => AddMonoidHom

class AddMonoidHomClass (F : Type) (M N : outParam Type) [Add M] [Zero M] [Add N] [Zero N]
  extends AddHomClass F M N, ZeroHomClass F M N

structure MonoidHom (M : Type) (N : Type) [Mul M] [One M] [Mul N] [One N] extends
  OneHom M N, M →ₙ* N

infixr:25 " →* " => MonoidHom

class MonoidHomClass (F : Type) (M N : outParam Type) [Mul M] [One M] [Mul N] [One N]
  extends MulHomClass F M N, OneHomClass F M N

structure MonoidWithZeroHom (M : Type) (N : Type)
  [Mul M] [Zero M] [One M] [Mul N] [Zero N] [One N] extends ZeroHom M N, MonoidHom M N

infixr:25 " →*₀ " => MonoidWithZeroHom

structure NonUnitalRingHom (α β : Type) [Add α] [Zero α] [Mul α]
  [Add β] [Zero β] [Mul β] extends α →ₙ* β, α →+ β

class MonoidWithZeroHomClass (F : Type) (M N : outParam Type) [Mul M] [Zero M] [One M]
  [Mul N] [Zero N] [One N] extends MonoidHomClass F M N, ZeroHomClass F M N

infixr:25 " →ₙ+* " => NonUnitalRingHom

structure RingHom (α : Type) (β : Type) [Semiring α] [Semiring β] extends
  α →* β, α →+ β, α →ₙ+* β, α →*₀ β

infixr:25 " →+* " => RingHom

class RingHomClass (F : Type) (α β : outParam Type) [Semiring α]
  [Semiring β] extends MonoidHomClass F α β, AddMonoidHomClass F α β,
  MonoidWithZeroHomClass F α β

instance instRingHomClass (R S : Type) [Semiring R] [Semiring S] :
    RingHomClass (R →+* S) R S where
  coe f := f.toFun

-- this is needed to create the troublesome instance `Algebra.instid`
def RingHom.id (α : Type) [Semiring α] : α →+* α := by
  refine' { toFun := _root_.id.. }

end algebra_hierarchy_morphisms

section HSMul_stuff

class HSMul (α : Type) (β : Type) (γ : outParam Type) where
  hSMul : α → β → γ

class SMul (M : Type) (α : Type) where
  smul : M → α → α

infixr:73 " • " => HSMul.hSMul

instance instHSMul {α β : Type} [SMul α β] : HSMul α β β where
  hSMul := SMul.smul

-- note that the function `SMulZeroClass.toSMul` is what disrupts `simp` later
class SMulZeroClass (M A : Type) extends SMul M A where

class SMulWithZero (R M : Type) extends SMulZeroClass R M where

instance MulZeroClass.toSMulWithZero (R : Type) [Mul R] [Zero R] : SMulWithZero R R where
  smul := (· * ·)

end HSMul_stuff

section Algebra_stuff

class Algebra (R A : Type) [CommSemiring R] [Semiring A] extends SMul R A,
  R →+* A where

-- needed for troublesome `Algebra.instid`
def RingHom.toAlgebra' {R S : Type} [CommSemiring R] [Semiring S] (i : R →+* S)
    : Algebra R S where
  smul c x := i c * x
  toRingHom := i

-- needed for troublesome `Algebra.instid`
def RingHom.toAlgebra {R S : Type} [CommSemiring R] [CommSemiring S] (i : R →+* S) : Algebra R S :=
  i.toAlgebra'

-- comment this out and the failing `simp` works
instance Algebra.instid (R : Type) [CommSemiring R] : Algebra R R :=
  (RingHom.id R).toAlgebra

end Algebra_stuff

namespace Pi_stuff

instance instSMul {I : Type} {f : I → Type} {M : Type} [∀ i, SMul M <| f i] : SMul M (∀ i : I, f i) :=
  ⟨fun s x => fun i => s • x i⟩

end Pi_stuff

section oliver_example

theorem Pi.smul_apply {I : Type} {f : I → Type} {β : Type} [∀ i, SMul β (f i)] (x : ∀ i, f i) (b : β) (i : I) : (b • x) i = b • (x i) :=
  rfl

instance (R : Type) [CommRing R] : CommSemiring R where

-- `foo` and `bar` are defeq
example {R : Type} [CommRing R] : True :=
  let foo := (Algebra.instid R).toSMul
  let bar : SMul R R := SMulZeroClass.toSMul
  have : foo = bar := rfl -- they are defeq
  trivial

-- this proof works fine
example {α R : Type} [CommRing R] (f : α → R) (r : R) (a : α) :
    (r • f) a = r • (f a) := by
  simp only [Pi.smul_apply]

-- the presence of `bar` breaks the proof
-- set_option trace.Meta.isDefEq true in
example {α R : Type} [CommRing R] (f : α → R) (r : R) (a : α) :
    (r • f) a = r • (f a) := by
  let bar : SMul R R := SMulZeroClass.toSMul
  --  have : Algebra.toSMul = bar := rfl
  --  have : (Algebra.instid R).toSMul = bar := rfl
  fail_if_success simp only [Pi.smul_apply]
  -- the isDefEq trace indicates a failure of isDefEq to prove
  -- that two defeq things are defeq
  sorry

-- The proof is fixed if we use `Ring` instead of `CommRing`.
example {α R : Type} [Ring R] (f : α → R) (r : R) (a : α) :
    (r • f) a = r • (f a) := by
  let bar : SMul R R := SMulZeroClass.toSMul
  simp only [Pi.smul_apply]

end oliver_example
```

The relevant part of the `trace.Meta.isDefEq` output is
```
[Meta.isDefEq] ❌ fun i ↦ Algebra.toSMul =?= fun i ↦ bar ▼
  [] ✅ α =?= α
  [] ❌ Algebra.toSMul =?= bar ▼
    [] ❌ Algebra.toSMul =?= SMulZeroClass.toSMul ▼
      [] ❌ (Algebra.instid R).1 =?= SMulWithZero.toSMulZeroClass.1 ▼
        [] ❌ (Algebra.instid R).1 =?= { smul := fun x x_1 ↦ x * x_1 } ▼
          [] ✅ SMul R R =?= SMul R R
          [] ❌ SMul.smul =?= fun x x_1 ↦ x * x_1 ▼
            [] ❌ fun x x_1 ↦ x * x_1 =?= fun a ↦ SMul.smul a ▼
              [] ✅ R =?= R
              [] ❌ fun x ↦ x✝ * x =?= SMul.smul x✝ ▼
                [] ❌ fun x ↦ x✝ * x =?= fun a ↦ SMul.smul x✝ a ▼
                  [] ✅ R =?= R
                  [] ❌ x✝¹ * x✝ =?= SMul.smul x✝¹ x✝ ▼
                    [] ❌ @HMul.hMul =?= @SMul.smul
                    [onFailure] ❌ x✝¹ * x✝ =?= SMul.smul x✝¹ x✝
                    [] ❌ Mul.mul x✝¹ x✝ =?= SMul.smul x✝¹ x✝ ▼
                      [] ❌ @Mul.mul =?= @SMul.smul
                      [onFailure] ❌ Mul.mul x✝¹ x✝ =?= SMul.smul x✝¹ x✝
                      [onFailure] ❌ Mul.mul x✝¹ x✝ =?= SMul.smul x✝¹ x✝
          [onFailure] ❌ (Algebra.instid R).1 =?= { smul := fun x x_1 ↦ x * x_1 }
```

and in particular the failure on line 3 `  [] ❌ Algebra.toSMul =?= bar ▼` is unexpected because the terms are defeq.

**Expected behavior:** [What you expect to happen]

I would not expect that randomly adding a term to the local context would break a `simp` proof.

**Actual behavior:** [What actually happens]

In the presence of `bar`, `simp` now makes no progress.

**Reproduces how often:** [What percentage of the time does it reproduce?]

100%

### Versions

`Lean (version 4.0.0-nightly-2023-08-19, commit 63d2bdd4908b, Release)` on Ubuntu

### Additional Information

There are workarounds, for example one can use `simp only [Pi.smul_apply _]`. But telling users to add `_`s everywhere is not an ideal solution.

**Comment by mattrobball** [comment]
It appears (to the untrained eye) that the transparency of `(Algebra.instid R).1` has decreased relative to the runs in other contexts.

**Comment by ocfnash** [comment]
I think it's worth emphasising that a solution to this would be especially valuable because of the frequent situations where we use `simp` rather than `simp only`.

**Comment by Kha** [comment]
> It appears (to the untrained eye) that the transparency of `(Algebra.instid R).1` has decreased relative to the runs in other contexts.

Yes, `simp` only unfolds `[reducible]` definitions for performance reasons; it seems the workaround avoids even getting to that point for other reasons. Is there a mathlib policy about whether two instances should be defeq without unfolding standard `def`s?

**Comment by mattrobball** [comment]
Does `rw` behave differently?

**Comment by mattrobball** [comment]
Also, if you blindly make everything reducible, we get down to `id c =?= c` which fails.

**Comment by Kha** [comment]
Then you didn't literally make everything reducible because `id` isn't! If you replace it with `fun x => x`, it works.

**Comment by mattrobball** [comment]
Ha ha! Thanks. 

I don't think it has been mentioned above but `rw` in place of `simp only` succeeds both in closing the goal and checking that defeq by unfolding. 

I thought reducibility for `rw` was also `reducible` so am a little confused.

**Comment by eric-wieser** [comment]
> Is there a mathlib policy about whether two instances should be defeq without unfolding standard `def`s?

I think the answer is "essentially yes", in light of [this library note](https://github.com/leanprover-community/mathlib4/blob/8c31491fa9c95151e0596116748405d262387017/Mathlib/Algebra/HierarchyDesign.lean#L194-L209).

**Comment by eric-wieser** [comment]
Which is to say,
```
-- needed for troublesome `Algebra.instid`
def RingHom.toAlgebra' {R S : Type} [CommSemiring R] [Semiring S] (i : R →+* S)
    : Algebra R S where
  smul c x := i c * x
  toRingHom := i

-- needed for troublesome `Algebra.instid`
def RingHom.toAlgebra {R S : Type} [CommSemiring R] [CommSemiring S] (i : R →+* S) : Algebra R S :=
  i.toAlgebra'
```
are breaking this rule and should be `@[reducible]`

**Comment by eric-wieser** [comment]
It's not enough; to make the mwe fail to fail, you also have to change
```diff
-def RingHom.id (α : Type) [Semiring α] : α →+* α := { toFun := _root_.id .. }
+@[reducible] def RingHom.id (α : Type) [Semiring α] : α →+* α := { toFun := (·) .. }
```
which is not a change we want to make

**Comment by Kha** [comment]
Well that is problematic. Both simp and TC inference fundamentally depend on such typeclass diamonds being defeq under `[reducible]`.

**Comment by eric-wieser** [comment]
@kbuzzard, do you have a Zulip thread in mind that motivated this MWE?

**Comment by ocfnash** [comment]
> do you have a Zulip thread in mind that motivated this MWE?

@eric-wieser Yes, see [this message](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/simp.20.5BX.5D.20fails.2C.20rw.20.5BX.5D.20works/near/386568325). You can see an example of this in Mathlib [here](https://github.com/leanprover-community/mathlib4/blob/9022a7ddb9c3283b8c37e8f889da80b87bc55840/Mathlib/LinearAlgebra/FreeModule/PID.lean#L476): you can replace `simp [Pi.smul_apply (snf.a i)]` with `simp [Pi.smul_apply _]` but if you write just `simp` (or even `simp [Pi.smul_apply]`) then the `Pi.smul_apply` does not fire.
